US06750232B2
6-(2-Furyl)-4-isopropoxy-2-oxo-1,2-dihydro-3-pyridinecarbonitrile
Sodium (309 mg, 13.4 mmol) was dissolved in isopropanol (46 mL). Then, (Z)-1-(2-furyl)-3-isopropoxy-3-(methylsulfanyl)-2-propen-1-one (3.03 g, 13.4 mmol) and 2-cyanoacetamide (1.13 g, 13.4 mmol) were added thereto, followed by stirring overnight at room temperature. Ice-water was added to the reaction solution, and then the solid was collected by filtration, and washed with water and diethyl ether, to give the title compound (2.3 g, 70%).

reactant | Sodium | 13.4 mmol, 309 mg | [Na] | Na
reactant | (Z)-1-(2-furyl)-3-isopropoxy-3-(methylsulfanyl)-2-propen-1-one | 13.4 mmol, 3.03 g | O1C(=CC=C1)C(\C=C(/SC)\OC(C)C)=O | C11H14O3S
reactant | 2-cyanoacetamide | 13.4 mmol, 1.13 g | C(#N)CC(=O)N | C3H4N2O
solvent | isopropanol | 46 mL | C(C)(C)O | C3H8O
product | 6-(2-Furyl)-4-isopropoxy-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 2.3 g, 70% | O1C(=CC=C1)C1=CC(=C(C(N1)=O)C#N)OC(C)C | C13H12N2O3
